US04587238
Add a solution of 7.35 g. 3-bromoperhydroazonin-2-one [Nagasawa et al., J. Med. Chem., 14, 501 (1971)]and 8.47 g t-butyl iodoacetate in 70 ml THF to a suspension of 0.881 g sodium hydride in 35 ml THF. After 2 hours at room temperature, add 15 ml saturated NH4Cl solution, filter and concentrate the filtrate in vacuo. Partition the residue between ether and H2O and wash the organic phase with H2O and brine. Dry the ether solution and filter. Decolorize the filtrate with charcoal, filter and concentrate the filtrate in vacuo to isolate 3-bromo-1-t-butoxycarbonylmethylperhydroazonin-2-one. Purify a sample for characterization by silica gel chromatography. Anal. C14H24BrNO3). Calc: C, 50.31; H, 7.24; N, 4.18; Br, 23.91. Found: C, 49.86; H, 7.33; N, 4.30; Br, 23.51. Mass spectrum: M+ at 334; m/e: 278 (M+ --C 4 H8); 261 (M+ --C4H9O); 232 (M+ --C4H9CO2 --H, base).

reactant | 3-bromoperhydroazonin-2-one | BrC1C(NCCCCCC1)=O | C8H14BrNO
reactant | t-butyl iodoacetate | 8.47 g | ICC(=O)OC(C)(C)C | C6H11IO2
reactant | sodium hydride | 0.881 g | [H-].[Na+]
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 3-bromo-1-t-butoxycarbonylmethylperhydroazonin-2-one | BrC1C(N(CCCCCC1)CC(=O)OC(C)(C)C)=O | C14H24BrNO3
